US09034866B2
Synthesis of (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
A mixture of 10-bromo-3-(chloromethyl)-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (200 mg, 0.46 mmol, 1.00 equiv), 2-methyl-1H-1,3-benzodiazole (304 mg, 2.30 mmol, 5.00 equiv), Cs2CO3 (450 mg, 1.38 mmol, 3.00 equiv) in N,N-dimethylformamide (2 mL) was stirred overnight at room temperature. The reaction mixture was diluted with water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1). This resulted in 140 mg (57%) of 10-bromo-2-iodo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine as a colorless solid. Similar to Example 10 (carbonylative amidation) a 20-mL sealed tube purged and maintained with an inert atmosphere of CO(g), was placed a solution of 10-bromo-2-iodo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (140 mg, 0.26 mmol, 1.00 equiv), HMDS (105 mg, 0.65 mmol, 2.50 equiv), Pd(dppf)Cl2 (21 mg, 0.10 equiv), and N,N-dimethylformamide (2 mL). The resulting solution was heated to 70° C. for 4 h and diluted with water. Then the resulting solution was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1). This resulted in 90 mg (76%) of 10-bromo-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide as a yellow solid. Similar to as described in General Procedure E with the exceptions of using Pd(PPh3)4 in DMSO, 10-bromo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound as a yellow solid (29 mg, 31%).

reactant | 10-bromo-3-(chloromethyl)-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.46 mmol, 200 mg, 1.00 equiv | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)I)CCl)C1 | C12H9BrClIN2O
reactant | 2-methyl-1H-1,3-benzodiazole | 2.30 mmol, 304 mg, 5.00 equiv | CC1=NC2=C(N1)C=CC=C2 | C8H8N2
reactant | Cs2CO3 | 1.38 mmol, 450 mg, 3.00 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 10-bromo-2-iodo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.26 mmol, 140 mg, 1.00 equiv | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)I)CN3C(=NC2=C3C=CC=C2)C)C1 | C20H16BrIN4O
reactant | HMDS | 0.65 mmol, 105 mg, 2.50 equiv | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | (R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
solvent | 10-bromo-3((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC2=C3C=CC=C2)C)C1 | C21H18BrN5O2
catalyst | Pd(dppf)Cl2 | 21 mg, 0.10 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-3-((2-methyl-1H-benzo[d]imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 29 mg, 31% | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC2=C3C=CC=C2)C)C1)(C)C1=NOC(=C1)C | C29H26N6O4
